US04970219
N-(3-Nitro-4-pyridinyl)-1H-indol-5-amine
To 150 ml of absolute ethanol were added 1H-indol-5-amine (8.06 g), 4-chloro-3-nitropyridine (10.0 g) and triethylamine (8.5 ml), and this mixture was heated to 60° C. and stirred for 2 hours. The mixture was cooled, the ethanol evaporated, and the residue taken up in a water/ethyl acetate mixture. This was treated with Na2CO3 (aq) to adjust the pH to 10. The organic layer was collected, the aqueous layer extracted again with ethyl acetate, and the organics were combined, washed with water and dried (sat. NaCl, anh. MgSO4).

reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | 1H-indol-5-amine | 8.06 g | N1C=CC2=CC(=CC=C12)N | C8H8N2
reactant | 4-chloro-3-nitropyridine | 10.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
product | N-(3-Nitro-4-pyridinyl)-1H-indol-5-amine | [N+](=O)([O-])C=1C=NC=CC1NC=1C=C2C=CNC2=CC1 | C13H10N4O2
